Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I think I'm losing my mind my son was ___ got adopted now
they won't let me see him not he's 4..last 2 were boys ___ years
ago..I see babies crying in my room lying on my bed when I went
to see what happened he was gone....I poured bleach all over my
children's clothes while I was washing them...I haven't slept 
for
3 days...I saw the devil in my room"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The patient is a ___ yo AA female with unclear psychiatric 
history
of alcohol and drug abuse which she denies and minimizes and
reported hx of bipolar ___ and one previous psychiatric admission
as a child {age ___ or ___} for hearing AVH.
She reports that she was treated on an outpatient growing up and
stopped as a teen.
The patient was seen by psychiatry at ___ earlier today and
from that appointment was sent to the ED by Dr. ___
psychiatrist who evaluated her.
The patient reported that she was experiencing auditory and
visual hallucination since this past ___ after the death of
her step father to whom she reports she was "very close".
She reports experiencing visual hallucinations of her dead son
who was adopted as she said that he was very sick and she was 
not
able to take care of him.She reports also hearing voices telling
her to pour bleach on her children's clothes which she did while
washing them.She reports VH of seeing "people coming at me out 
of
the walls I think they want to kill me."
The patient reports that she has not been able to sleep for 3
days and last night a friend bought her "some coke just a little
but to sleep" but it was not effective.She also reports that she
smokes MJ twice a month to relax.
She reports that she recently regained custody of her children 
as
___ had removed them for ___ months for unclear reasons,However
she has a hx of being in jail on 5 different occasions for
"fighting" and was last in jail ___ years ago.
She reports that she has support with caring for children her
partner, her aunt and the paternal grandmother.
In speaking with her partner who reports that the patient has 
not
been sleeping well, depressed and hearing voices, denied that 
she
had expressed suicidal or homicidal ideation and has been taking
care of their children.He said that DCF is involved and they are
closing the case in ___.
The patient reports that she has not slept for the past 3 days,
hearing voices "on and off" since her stepfather died in
___,appetite is "up and down" is experiencing visual and 
auditory
hallucinations that intensify at night "when the lights are 
out."
She said " when I'm alone and its quiet and lights are out I see
people" she's been pulling her hair and describes her energy as
"up and down" but denies sustained periods of frank mania.
In speaking with ___ who met with the patient today along
with ___ reports that the patient started hearing voices
___ years ago after the lost of another child .A resident met with
last week and she was reporting auditory hallucinations but the
voices were more positive telling her she "could ___ it" and was
able to focus on her coping skills.
Today he reports that she was well dressed but her pupils were
constricted "pinpoint",was hearing voices and was rocking back
and forth.He said that she reported that she had poured bleach 
on
her children's clothes but not because she heard voices telling
her to.He said that she told him that she had smoked a small
amount of cocaine yesterday "to prevent" herself from sleeping
because when she falls asleep she is woken up with VH of people
all around her and has to sleep with the lights on.She has been
pulling her hair out and wakes up with bruises all over her
body.He also reported that he voices became worse after a recent
fight with her mother.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
*Hospitalizations:age ___ or ___ was hospitalized for AVH, but does
not remember where
* ___ seen @ ___ ED for depression, no si or psychosis and was 
  discharged with f/u
She was in outpatient treatment as a child and stopped as a teen
was on medications but does not remember what they were
Current treaters and treatment:saw Dr. ___ @ ___ for
the first time today ___
* Social worker ___ @ ___ {___}
* ___ worker ___ and she visits the patient q. 
monthly

Medication and ECT trials:unknown
Self-injury as a teen cut her wrists, requiring medical care and
" I tried to jump of a neighbor's roof and the neighbor stopped
me"
Harm to others:hx of assaulting people and cutting them in he
past
Access to weapons:denies access to guns

PAST MEDICAL HISTORY:
* PCP ___ @ ___ ___
* Asthma
* Myalgia's
* s/p tubal ligation ___
* IUDF x2, ___ and ___

 
Social History:
SUBSTANCE ABUSE HISTORY:
alcohol: denies currently per OMR has hx of abuse
illcits: MJ x 1 month and "smoked a little cocaine last night to
sleep" denies regular use, denies abuse of prescription drugs or
other illicits and denies IVDA
Tob: ___ ppd
Caffeine: 2 cups of coffee a day

FORENSIC HISTORY:
Arrests:reports that she has been arrested 5 times, the last was
___ years ago for attacking a man with a knife who tried to ___ 
her
while she was intoxicated
Convictions and jail terms:jailed at ___ x 5, has been out
of jail for ___ years, reports that she served 6 months for the
attack on him 
Current status (pending charges, probation, parole)

SOCIAL HISTORY:
___
Family History:
* Mother with alcohol abuse disorder,Bipolar ___ and was
hospitalized in her ___

 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T: 99.0, BP: 123/85, HR: 89, R: not taken, O2 sat: 99% on RA

General: Middle-aged overweight AA female in NAD.
HEENT: Normocephalic. With some R eye ptosis, which pt reports 
is
her baseline from being punched in the eye. PERRL, EOMI, though 
R
eye slightly adducted. Oropharynx clear. Poor dentition, missing
several teeth with some chipped teeth.
Neck: Supple.
Back: No significant deformity. +TTP in mid and lower back along
spine, as well as flanks bilaterally.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
Cranial Nerves:
I: Not tested.
II: PERRL.
III, IV, VI: EOMI intact ___ without nystagmus. R eye slightly
adducted.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to finger rub bilaterally.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Somewhat slow on finger to nose test, with inaccuracies in
touching finger to finger. DTRs: 2+ and symmetrical throughout.
Sensation: Intact to light touch throughout. 
Gait: Somewhat unsteady (limited by foot pain).

Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Executive function (go-no go, Luria, trails, FAS): not tested
 Memory: intact to recent and past history
 Fund of knowledge: consistent with education
 Calculations: not assessed
 Abstraction: not assessed
 Visuospatial: not assessed
 Speech: normal rate, volume, and tone
 Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

 
Pertinent Results:
___ 01:55PM URINE  HOURS-RANDOM
___ 01:55PM URINE  HOURS-RANDOM
___ 01:55PM URINE  UCG-NEGATIVE
___ 01:55PM URINE  GR HOLD-HOLD
___ 01:55PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:55PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:45PM   GLUCOSE-91 UREA N-14 CREAT-0.9 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-104 TOTAL CO2-24 ANION GAP-16
___ 12:45PM   estGFR-Using this
___ 12:45PM   CK(CPK)-201
___ 12:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:45PM   WBC-11.4* RBC-4.42 HGB-13.3 HCT-38.2 MCV-86 
MCH-30.0 MCHC-34.8 RDW-15.5
___ 12:45PM   NEUTS-61.2 ___ MONOS-4.7 EOS-0.8 
BASOS-0.3
___ 12:45PM   PLT COUNT-264
 
Brief Hospital Course:
GLOBAL ASSESSMENT
Pt is a ___ w/ remote psych hx notable for psychotic sx who 
presented w/ acute sx in the context of cocaine use that was 
triggered by untreated depression, PTSD, and emergence of 
atypical psychotic sx.  The above is also triggered by 
complicated bereavement from a stillborn child and amplified by 
social stressors including having 4 children ___ in the home w/ 
her.  
Pt was help-seeking, responded well to treatment and very 
quickly stabilized.

PSYCHIATRIC
#) Depression w/ transient psychosis
Patient presented with depressed mood, hopelessness, dysphoric 
and tearful affect. She also reported poor energy and insomnia, 
only sleeping about 2 hours per night. Patient named several 
psychosocial stressors contributing to depressed mood including 
loss of 2 children (stillborn) and her stepfather whom she was 
very close to. She endorsed visual hallucinations described as 
seeing shadows in the middle of the night, otherwise patient was 
organized in thought process, speech and behavior. She was 
started 10 mg of fluoxetine for depression and 2.5 mg of zyprexa 
at night for sleep and atypical signs of psychosis. By hospital 
day two, the patient reported feeling much better and denied any 
AVH. She also noted improvements in sleep and energy level and 
felt safe to return home. 

GENERAL MEDICAL CONDITIONS
no acute medical concerns

PSYCHOSOCIAL
#) GROUPS/MILIEU
Pt was highly visible on the unit, pleasant and cooperative.  
She attended groups and participated meaningfully and in an 
animated manner.  She made positive social relationships on the 
unit and met all ADLs throughout her stay.

#) COLLATERAL
Team spoke w/ pt's therapist who is encouraged by her progress 
and looking forward to meeting her again next week.  No 
objections voiced to d/c of pt.  She had apparently been 
depressed at his office and c/o hallucinations which were 
described more as c/w dissociative episodes, possibly from 
complex ptsd.
Pt feels highly supported by outpatient team and is looking 
forward to f/u with them.

___ also spoke w/ pt's boyfriend, ___ (father of her 
children).  He reports that pt is very high energy at baseline 
and that he was glad to hear she was upbeat and agreed that she 
is ready for return home.  He had no objections to her 
discharge.

INTERVENTIONS
#) ___ was contacted and advised that pt had been admitted 
voluntarily to psychiatry, is help-seeking, utilizing outpt 
supports and will be d/c back home.

LEGAL STATUS
Pt remained on a CV.

INFORMED CONSENT
Pt started prozac and zyprexa.
We discussed r/b/se and alternatives.  Desptie HBA1c of 6.1, the 
pt reported that she would prefer to stay on zyprexa as she has 
never slept so good.  We advised her to f/u w/ pcp to ___ 
follow blood sugar and lipids as these can be affected by the 
neuroleptic.  We also warned her of movemetn d/o and also of GI 
upset from prozac along w/ need to tell providers immediately if 
suicidal thoughts arise.
She understood the above and agreed.

RISK ASSESSMENT
Pt is low risk for harm to self/others at this time.

Chronic RF:
Depression
Loss of loved ones
- Hx substance use disorder

Modifiable RF:
Depressed mood - We modified this by starting an antidepressant 
which the patient responded well to.
Substance use - We attempted to modify this by offering 
substance treatment as an outpatient, however the patient 
declined.
Psychosocial stressors - We modified this by arranging follow-up 
with outpatient treaters for continued therapy.

Protective factors:
Offspring
Partner
Race
___
No prior suicide attempts
Mental health treaters

PROGNOSIS
Fair 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Fluoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
2. OLANZapine 2.5 mg PO QHS 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
depressive disorder with psychotic features

 
Discharge Condition:
Appearance- Pt is dressed in causual clothing. Appropriate
grooming. 
Behavior: No pmr/pma. Cooperative, engaged, pleasant.
Mood- 'excited'
Affect- congruent; elevated
Speech- spontaneous, increased pace and amount from previous
Thought Process- linear/goal directed
Though Content- no delusions/ruminations
avh- denies
si/hi- denies
Cognition- a+ox3
Insight/Judgement- limited/limited
Ambulatory

 
Discharge Instructions:
You were hospitalized at ___ for depression, suicidal thoughts 
and hallucinations.  We started you on two new medications, 
zyprexa and prozac and you are now ready for discharge and 
continued treatment with your outpatient therapist and 
psychiatrist.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

 
Followup Instructions:
___